US04429135
118 g of hydrazodicarbonamide and 100 g of cyclohexyl amine are stirred in 100 ml of N-methyl pyrrolidone for 2 hours at 160° C., for 7 hours at 175° C. and for 10 hours at 200° C. The solvent is then distilled off in vacuo and the residue is triturated with 100 ml of a 10% sodium hydroxide solution. The deposit is isolated by filtration under suction and the filtrate is neutralised with 10% hydrochloric acid. A deposit is precipitated and is isolated by filtration under suction, washed with water and dried in vacuo, giving 132 g (76% of the theoretical yield) of 4-cyclohexyl-1,2,4-triazolidine-3,5-dione (identical with the compounds produced in accordance with Example 2).

reactant | hydrazodicarbonamide | 118 g | C(=O)(N)NNC(=O)N | C2H6N4O2
reactant | cyclohexyl amine | 100 g | C1(CCCCC1)N | C6H13N
reactant | hydrochloric acid | Cl | ClH
solvent | N-methyl pyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 4-cyclohexyl-1,2,4-triazolidine-3,5-dione | C1(CCCCC1)N1C(NNC1=O)=O | C8H13N3O2
